US08563575B2
138a) 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a stirred mixture of 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (10 g) and 1H-imidazole (3.79 g) in DMF (100 mL) was added triisopropylsilyl chloride (9.54 mL) at 0° C. The mixture was stirred at room temperature for 3 days, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (AcOEt/Hexane=1/10) to give the title compound (11.5 g).

reactant | 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 10 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O)=O | C15H15N3O2
reactant | 1H-imidazole | 3.79 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 9.54 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 11.5 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O2Si
